US08604032B2
To a solution of 6-methoxy-5-(trifluoromethyl)pyrimidin-4-amine (N-3) (420 mg, 2.18 mmol) in 1,4-dioxane (10 mL), concentrated HCl (1.81 mL, 21.8 mmol) is added and the resulting mixture is stirred at 90° C. for 3 h. The mixture is allowed to cool to RT and then concentrated in vacuo to afford the product, 6-amino-5-(trifluoromethyl)pyrimidin-4-ol (N-4) as yellowish solid.

reactant | 6-methoxy-5-(trifluoromethyl)pyrimidin-4-amine | 2.18 mmol, 420 mg | COC1=C(C(=NC=N1)N)C(F)(F)F | C6H6F3N3O
reactant | HCl | 21.8 mmol, 1.81 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-amino-5-(trifluoromethyl)pyrimidin-4-ol | NC1=C(C(=NC=N1)O)C(F)(F)F | C5H4F3N3O
